US04962115
A mixture of 16.6 parts of cis-ethyl 4-(4-amino-5-chloro-2-methoxybenzoylamino)-3-methoxy-1-piperidinecarboxylate, 26.36 parts of potassium hydroxide and 160 parts of 2-propanol was stirred and refluxed for 3 hours. The reaction mixture was evaporated in vacuo on a boiling water-bath. Water was added to the residue and the whole was evaporated again. The residue was boiled in water on a warm water-bath. The precipitated product was filtered off and taken up in trichloromethane. The organic phase was separated, dried, filtered and evaporated. The residue was taken up in methylbenzene. The solid residue was filtered off and dried, yielding 6.7 parts (46%) of cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide; mp. 184.3° C. (compound 211).

reactant | cis-ethyl 4-(4-amino-5-chloro-2-methoxybenzoylamino)-3-methoxy-1-piperidinecarboxylate | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)C(=O)OCC)OC)C=C1Cl)OC | C17H24ClN3O5
reactant | potassium hydroxide | [OH-].[K+]
solvent | 2-propanol | CC(C)O | C3H8O
product | cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide | 46% | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CNCC2)OC)C=C1Cl)OC | C14H20ClN3O3
